US07396847B2
[3-(4′-{(5S)-5-[(Acetylamino)methyl]-2-oxo-1,3-oxazolidin-3-yl}-1,1′-biphenyl-4-yl)-4,5-dihydroisoxazol-5-yl]methyl dihydrogen phosphate
[3-(4′-{(5S)-5-[(Acetylamino)methyl]-2-oxo-1,3-oxazolidin-3-yl}-1,1′-biphenyl-4-yl)-4,5-dihydroisoxazol-5-yl]methyl di-tert-butyl phosphate (95 mg, 0.16 mmol) was dissolved in dichloromethane (1 ml) and trifluoroacetic acid (0.1 ml) was added. The solution was stirred for 1 h at ambient temperature, then concentrated in vacuo. Dichloromethane was added and the volatiles were removed in vacuo. This was repeated twice with dichloromethane and five times with diethyl ether. A pale yellow solid was obtained (78 mg) corresponding to the desired product.

reactant | [3-(4′-{(5S)-5-[(Acetylamino)methyl]-2-oxo-1,3-oxazolidin-3-yl}-1,1′-biphenyl-4-yl)-4,5-dihydroisoxazol-5-yl]methyl di-tert-butyl phosphate | 0.16 mmol, 95 mg | P(=O)(OCC1CC(=NO1)C1=CC=C(C=C1)C1=CC=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)(OC(C)(C)C)OC(C)(C)C | C30H40N3O8P
reactant | trifluoroacetic acid | 0.1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | [3-(4′-{(5S)-5-[(Acetylamino)methyl]-2-oxo-1,3-oxazolidin-3-yl}-1,1′-biphenyl-4-yl)-4,5-dihydroisoxazol-5-yl]methyl dihydrogen phosphate | P(=O)(OCC1CC(=NO1)C1=CC=C(C=C1)C1=CC=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)(O)O | C22H24N3O8P
